US07662824B2
1-Methyl-piperazine (0.21 g, 2.1 mmol) was added to a solution of 4-bromo-1H-indole-6-carboxylic acid (0.50 g, 2.1 mmol), triethylamine (0.43 mL, 3.1 mmol) and HBTU (0.78 g, 2.1 mmol) in DMF (5 mL) and stirred at room temperature overnight. Reaction mixture was concentrated in vacuo and purified by column chromatography (10% methanol in dichloromethane) to yield 0.30 g (45%) of (4-bromo-1H-indol-6-yl)-(4-methyl-piperazin-1-yl)-methanone. Mass spectrum (LCMS, ESI pos.): Calcd for C14H16BrN3O: 321.05. Found 322.0 ; (M+H).

reactant | 1-Methyl-piperazine | 2.1 mmol, 0.21 g | CN1CCNCC1 | C5H12N2
reactant | 4-bromo-1H-indole-6-carboxylic acid | 2.1 mmol, 0.50 g | BrC1=C2C=CNC2=CC(=C1)C(=O)O | C9H6BrNO2
reactant | triethylamine | 3.1 mmol, 0.43 mL | C(C)N(CC)CC | C6H15N
reactant | HBTU | 2.1 mmol, 0.78 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | (4-bromo-1H-indol-6-yl)-(4-methyl-piperazin-1-yl)-methanone | 0.30 g, 45% | BrC1=C2C=CNC2=CC(=C1)C(=O)N1CCN(CC1)C | C14H16BrN3O
